US07825253B2
The intermediate N-(2-chloro-quinolin-5-yl)-3,5-difluoro-benzenesulfonamide was prepared in accordance with the general method of example 61, step A and B from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonylchloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonylchloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | N-(2-chloro-quinolin-5-yl)-3,5-difluoro-benzenesulfonamide | ClC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC(=CC(=C1)F)F | C15H9ClF2N2O2S
